US04861769
To a suspension of ethyl 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetate (syn isomer)(9.92 g) in methanol (99.2 ml) was dropwise added 2N aqueous solution of sodium hydroxide (122 ml) below 10° C. The mixture was stirred under ice-cooling for 4 hours. The mixture was poured into ice-water, washed with ethyl acetate, adjusted to pH 2 with 6N hydrochloric acid under ice-cooling, and extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with petroleum ether to give 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer)(6.97 g).

reactant | ethyl 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetate | 9.92 g | C1(CC1)ON=C(C(=O)OCC)C=1N=C(SC1)NC=O | C11H13N3O4S
reactant | sodium hydroxide | 122 ml | [OH-].[Na+]
solvent | methanol | 99.2 ml | CO | CH4O
product | 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 6.97 g | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
